US04675186
4-(2-Methyl-1,3-dioxol-2-yl)benzyl Chloride
Methyl 4-acetylbenzoate (20.5 g., Preparation 49) was converted to its ethylene glycol ketal [25.5 g.; 1H-nmr 2.65 (s, 3H), 3.8 (m, 2H), 3.9 (s, 3H), 4.1 (m, 2H), 7.55 (d, 2H), 8.0 (d, 2H)] according to the method of Preparation 60. The ketal (25.5 g., 0.115 mol) was reduced in toluene (300 ml.) with sodium bis(2-methoxyethoxy)aluminum hydride (40.6 ml. of 3.4M in toluene, 0.138 mol) to yield, after H2O quench, basification with 1N NaOH, extraction into ethyl acetate and stripping, the intermediate benzyl alcohol, 21.8 g., [oil; identical with the intermediate of Preparation 61; 1H-nmr 1.6 (s, 3H), 2.8 (br t, 1H), 3.8 (m, 2H), 4.0 (m, 2H), 4.7 (d, 2H), 7.2-7.6 (q, 4H)]. The alcohol (21.8 g., 0.112 mol) and pyridine (9.06 ml., 8.86 g., 0.112 mol) were combined in 200 ml. CHCl3. SOCl2 (8.20 ml., 13.4 g., 0.112 mol) in 60 ml. CHCl3 was added dropwise over 15 minutes. After stirring for 4 hours, the reaction mixture was stripped, the residue was taken up in 350 ml. ethyl acetate, and pyridine salts removed by filtration. The filtrate was washed 2×150 ml. H2O, 1×150 ml. saturated NaHCO3 and 1×150 ml. brine, dried and stripped to yield title product as an oil, 23.0 g.; 1H-nmr 1.6 (s, 3H), 3.7 (m, 2H), 4.0 (m, 2H), 4.55 (s, 2H), 7.3 (d, 2H), 7.4 (d, 2H).

reactant | Methyl 4-acetylbenzoate | 20.5 g | C(C)(=O)C1=CC=C(C(=O)OC)C=C1 | C10H10O3
reactant | sodium bis(2-methoxyethoxy)aluminum hydride | 0.138 mol, 3.4M, 40.6 ml | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | pyridine | 0.112 mol, 9.06 ml, 8.86 g | N1=CC=CC=C1 | C5H5N
reactant | SOCl2 | 0.112 mol, 8.20 ml, 13.4 g | O=S(Cl)Cl | Cl2OS
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 4-(2-Methyl-1,3-dioxol-2-yl)benzyl Chloride | CC1(OC=CO1)C1=CC=C(CCl)C=C1 | C11H11ClO2
